US07642264B2
5-{1-[4-(4-Chloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine (example E.12) (0.28 g, 0.8 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.18 g, 0.8 mmol) according to the general procedure VI. Obtained as an off-white solid (0.04 g, 13%). MS (ISP) 364.0 [(M+H)+]; mp 264-266° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-(4-chloro-phenyl)-6-methyl-pyrimidine | 0.8 mmol, 0.28 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C14H10BrClN4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 0.8 mmol, 0.18 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 5-{1-[4-(4-Chloro-phenyl)-6-methyl-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)N1C=NC(=C1)C=1C=NC(=NC1)N | C18H14ClN7
